US07179823B1
Sodium hydride (60%, oily, 1.28 g) was added to a mixture of 1-benzyl-5-phenyl-1H-pyrazole-4-carbaldehyde (7.00 g), ethyl diethylphosphonoacetate (6.59 g), and N,N-dimethylformamide (100 ml) at 0° C., and the mixture was stirred at room temperature for 2.5 days. The reaction mixture was poured into ice water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with water and then with saturated aqueous sodium chloride solution, dried (MgSO4), and then concentrated. The residue was subjected to silica gel column chromatography, and ethyl(E)-3-(1-benzyl-5-phenyl-1H-pyrazol-4-yl)propenoate (6.30 g, yield: 71%) was obtained as colorless crystals from the fraction eluted with ethyl acetate-hexane (1:4, volume ratio). This was recrystallized from ethyl acetate-hexane. Melting point: 62–63° C.

reactant | Sodium hydride | 1.28 g | [H-].[Na+]
reactant | 1-benzyl-5-phenyl-1H-pyrazole-4-carbaldehyde | 7.00 g | C(C1=CC=CC=C1)N1N=CC(=C1C1=CC=CC=C1)C=O | C17H14N2O
reactant | ethyl diethylphosphonoacetate | 6.59 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | ethyl(E)-3-(1-benzyl-5-phenyl-1H-pyrazol-4-yl)propenoate | 6.30 g, yield: 71% | C(C1=CC=CC=C1)N1N=CC(=C1C1=CC=CC=C1)/C=C/C(=O)OCC | C21H20N2O2
